US06841671B2
A mixture of 1-[6-(4-Formyl-phenoxy)-pyridin-3-yl]-pyrrolidine-2,2-dicarboxylic acid diethyl ester (0.70 g, 1.64 mmol), sodium carbonate (0.26 g, 1.64 mmol) and 16.4 mL of 1:1 tert-butyl alcohol-water was treated with potassium permanganate (0.26 g, 1.64 mmol). After stirring for 2 hours at room temperature, the mixture was quenched with sodium sulfite, acidified with 1M hydrochloric acid and extracted 3× with ethyl acetate. The combined organic layers were dried over sodium sulphate, filtered and concentrated in vacuo, affording 1-[6-(4-Carboxy-phenoxy)-pyridin-3-yl]-5-oxo-pyrrolidine-2,2-dicarboxylic acid diethyl ester as a colorless syrup (0.5 g). 1H NMR (CDCl3, 500 MHz): 8.14 (d, 2H, J=8.5 Hz), 8.10 (d, 1H, J=3.0 Hz), 7.80 (dd, 1H, J=2.5, 8.5 Hz), 7.24 (d, 2H, J=8.0 Hz), 7.02 (d, 1H, J=9.0 Hz), 4.21 (q, 4H, J=7.0 Hz), 2.74 (m, 2H), 2.66 (m, 2H), 1.21 (t, 6H, J=7.5 Hz) ppm. MS (APCl, m/z): 443 [M+H]+.

reactant | 1-[6-(4-Formyl-phenoxy)-pyridin-3-yl]-pyrrolidine-2,2-dicarboxylic acid diethyl ester | 1.64 mmol, 0.70 g | C(C)OC(=O)C1(N(CCC1)C=1C=NC(=CC1)OC1=CC=C(C=C1)C=O)C(=O)OCC | C22H24N2O6
reactant | sodium carbonate | 1.64 mmol, 0.26 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium permanganate | 1.64 mmol, 0.26 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | tert-butyl alcohol water | 16.4 mL | C(C)(C)(C)O.O
product | 1-[6-(4-Carboxy-phenoxy)-pyridin-3-yl]-5-oxo-pyrrolidine-2,2-dicarboxylic acid diethyl ester | 0.5 g | C(C)OC(=O)C1(N(C(CC1)=O)C=1C=NC(=CC1)OC1=CC=C(C=C1)C(=O)O)C(=O)OCC | C22H22N2O8
